US09283229B2
Step 1: Synthesis of 5-formyl-2-hydroxybenzonitrile
To a mixture of 3-bromo-4-hydroxybenzaldehyde (1.00 g, 4.97 mmol) in DMF (10 mL) was added cuprous cyanide (660 mg, 7.46 mmol). The mixture was heated at 180° C. for 8 hours. The solution was filtered off and purified by chromatography on silica gel (PE/EtOAc=8:1) (210 mg, 29%).

reactant | 3-bromo-4-hydroxybenzaldehyde | 4.97 mmol, 1.00 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-formyl-2-hydroxybenzonitrile | C(=O)C=1C=CC(=C(C#N)C1)O | C8H5NO2
